US07163947B2
A solution of 1-(3-{[4-amino-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]amino}propyl)-3-ethylurea (0.700 g, 1.82 mmol) in 20 mL of TFA was treated with platinum (IV) oxide (0.413 g, 1.82 mmol). The mixture was placed under an atmosphere of nitrogen (3.8×105 Pa) and shaken at ambient temperature. After 22 h, the reaction mixture was diluted with 50 mL of CHCl3 and 10 mL of MeOH and filtered through a pad of CELITE filter agent. The pad was rinsed with 20% MeOH in CHCl3 until the filtrate ran clear. The filtrate was concentrated under reduced pressure to yield a clear, colorless oil. The oil was suspended in 25 mL of H2O and treated with 50% NaOH until the pH of the liquid reached 13. A white solid precipitated. The solid was triturated in the basic solution for 15 min and then filtered to give a white solid. The solid was recrystallized from MeCN to yield 1-(3-{[4-amino-2-(ethoxymethyl)-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-1-yl]amino}propyl)-3-ethylurea (0.400 g) as white crystals. mp 189–191° C.; 1H NMR (300 MHz, DMSO-d6) δ 6.31 (t, J=5.9 Hz, 1H), 5.83–5.79 (m, 3H), 5.74 (t, J=5.6 Hz, 1H), 4.61 (s, 2H), 3.55 (q, J=7.0 Hz, 2H), 3.11–2.94 (m, 8H), 2.66 (t, J=5.8 Hz, 2H), 1.83–1.67 (m, 4H), 1.59 (p, J=6.9 Hz, 2H), 1.14 (t, J=7.0 Hz, 3H), 0.97 (t, J=7.1 Hz, 3H); 13C NMR (75 MHz, DMSO-d6) δ 158.4, 149.9, 149.3, 147.0, 137.6, 122.7, 105.5, 65.7, 63.3, 51.7, 37.5, 34.4, 32.5, 28.9, 23.2, 23.0, 22.4, 16.0, 15.3; MS (APCI) m/z 390 (M+H)+; Anal. Calcd for C19H31N7O2: C, 58.59; H, 8.02; N, 25.17; Found: C, 58.35; H, 8.30; N, 25.31.

reactant | 1-(3-{[4-amino-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]amino}propyl)-3-ethylurea | 1.82 mmol, 0.700 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2NCCCNC(=O)NCC)COCC | C19H27N7O2
reactant | NaOH | [OH-].[Na+]
solvent | TFA | 20 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CHCl3 | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | MeOH | 10 mL | CO | CH4O
solvent | H2O | 25 mL | O | H2O
catalyst | platinum (IV) oxide | 1.82 mmol, 0.413 g | [Pt](=O)=O
product | 1-(3-{[4-amino-2-(ethoxymethyl)-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-1-yl]amino}propyl)-3-ethylurea | 0.400 g | NC1=NC=2CCCCC2C2=C1N=C(N2NCCCNC(=O)NCC)COCC | C19H31N7O2
